* source SOA MOSFET
V_V1         N14635 0 24Vdc
V_V2         N14554 0  
+PULSE 0 10 500u 0 0 20m 
X_M1         N14873 N14563 0 POWER_NMOS_P PARAMS: BVDSS=80.0 IDSS=10U
+  VGS_TH=2.8 RDSON=0.0024 GFS=75 CISS=5150P COSS=440P CRSS=48P RG=0.88 VSD=0.95
+  QG=69N V_QG=10 TRR=13N
R_R1         N14554 N14563  2200k TC=0,0 
C_C1         N14873 N14635  3000u  TC=0,0 
R_R2         N14873 N14635  10 TC=0,0 
X_M2         N14873 N14563 0 POWER_NMOS_P PARAMS: BVDSS=80.0 IDSS=10U
+  VGS_TH=2.8 RDSON=0.0024 GFS=75 CISS=5150P COSS=440P CRSS=48P RG=0.88 VSD=0.95
+  QG=69N V_QG=10 TRR=13N
R_R3         0 N14563  5600k TC=0,0 
D_D1         N17058 N14554 Dbreak 
R_R4         N17058 N14563  4.7K TC=0,0 
